US05532235
N-[4-[(4,5-Dihydropyrazolo[3,4-d]thieno[3,2-b]azepin-6(1H )-yl)carbonyl]phenyl][1,1'-biphenyl]-2-carboxamide
As described for Example 2, 6-(4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine (297 mg) is reacted with 0.542 g of [1,1'-biphenyl]-2-carbonyl chloride to give 0.70 g of bis acylated product. A mixture of this product in 13 ml of tetrahydrofuran-methanol (9: 4) and 2.3 ml of 1N NaOH is stirred for 18 hours at room temperature. To the mixture is added 2.3 ml of 1N HCl and the solvent removed. The mixture is triturated with 50 ml of CH2Cl2, filtered and the solid washed with CH2Cl2 and water to give 0.27 g of off-white crystals, m.p. 280°-284° C.

reactant | 6-(4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine | 297 mg | NC1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)SC=C3)C=C1 | C16H14N4OS
reactant | [1,1'-biphenyl]-2-carbonyl chloride | 0.542 g | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | NaOH | 1N, 2.3 ml | [OH-].[Na+]
reactant | HCl | 1N, 2.3 ml | Cl | ClH
solvent | tetrahydrofuran-methanol | 13 ml | O1C(CCC1)CO | C5H10O2
product | N-[4-[(4,5-Dihydropyrazolo[3,4-d]thieno[3,2-b]azepin-6(1H )-yl)carbonyl]phenyl][1,1'-biphenyl]-2-carboxamide | 0.27 g | N1N=CC2=C1C1=C(N(CC2)C(=O)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)C=CS1 | C29H22N4O2S
